US06743791B2
4-(2-Ethylamino-5-methyl-pyrimidin-4-yl)-1H-pyrrole-2-carboylic Acid (2-hydroxy-1-(S)-phenyl-ethyl)-amide
To a solution of 4-[5-methyl-2-(propane-1-sulfonyl)-pyrimidin-4-yl]-1H-pyrrole-2-carboxylic acid (2-hydroxy-1-(S)-phenyl-ethyl)-amide (47 μmol, 20 mg) in DMSO (1 mL) was added ethylamine (0.5 mmol, 150 μL). The mixture was heated at 130° C. for 24 hours to afford the title compound. LC/MS(m/z) 366.2 (M+1); HPLC Method B, Rt=4.2 minutes; 1H NMR consistent with the structure.

reactant | 4-[5-methyl-2-(propane-1-sulfonyl)-pyrimidin-4-yl]-1H-pyrrole-2-carboxylic acid (2-hydroxy-1-(S)-phenyl-ethyl)-amide | 47 μmol, 20 mg | OC[C@H](C1=CC=CC=C1)NC(=O)C=1NC=C(C1)C1=NC(=NC=C1C)S(=O)(=O)CCC | C21H24N4O4S
reactant | ethylamine | 0.5 mmol, 150 μL | C(C)N | C2H7N
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 4-(2-Ethylamino-5-methyl-pyrimidin-4-yl)-1H-pyrrole-2-carboylic Acid (2-hydroxy-1-(S)-phenyl-ethyl)-amide | OC[C@H](C1=CC=CC=C1)NC(=O)C=1NC=C(C1)C1=NC(=NC=C1C)NCC | C20H23N5O2
